US07947727B2
N-Propyl-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]-2-thiophenecarboxamide
Prepared similarly to Example 1 from 2-thiophenecarboxylic acid and 1,1,1-trifluoro-3-{[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}-2-[(propylamino)methyl]-2-propanol.

reactant | 2-thiophenecarboxylic acid | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 1,1,1-trifluoro-3-{[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}-2-[(propylamino)methyl]-2-propanol | FC(C(CNC1=C2C=NN(C2=CC=C1)C1=CC=C(C=C1)F)(O)CNCCC)(F)F | C20H22F4N4O
product | N-Propyl-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]-2-thiophenecarboxamide | C(CC)N(C(=O)C=1SC=CC1)CC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC=C1)C1=CC=C(C=C1)F | C25H24F4N4O2S
